*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.15
*** -----------------------------------------------------
***     Extraction Engine: KPEX/FasterCap
***     Technology: ihp_sg13g2
***     Date: 2026-09-04 11:26:19
*********************************************************

.SUBCKT overlap_m1_m2
CCext_0_1 VSUBS \$2 36.1737f
CCext_1_2 \$2 \$3 9.58446f
CCext_1_1 \$2 VSUBS 1.24294f
CCext_2_2 \$3 VSUBS 168.95a
RRext_FC_GND_GND FC_GND GND 0 PEX_RES
RRext_VSUBS_GND VSUBS GND 0 PEX_RES
.ENDS overlap_m1_m2
